US06426345B1
A solution of 4-(3-acetamidophenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (0.9 g) in 4N hydrochloric acid (22 ml) was stirred under reflux for 90 minutes, and cooled. The reaction mixture was neutralized with solid sodium bicarbonate and precipitated white crystals were collected, washed with water and dried to give 4-(3-aminophenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (0.73 g).

reactant | 4-(3-acetamidophenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 0.9 g | C(C)(=O)NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC=1C=NC=CC1)C=CC=N2 | C21H17N5O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 4N, 22 ml | Cl | ClH
product | 4-(3-aminophenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 0.73 g | NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC=1C=NC=CC1)C=CC=N2 | C19H15N5O
